US04764522
A solution of 1.95 g of t-butyl [2-(3-benzyloxy-5-chloropyridine-2-carboxamido)ethyl]carbamate, m.p. 130°-133°, in 30 ml of trifluoroacetic acid was stirred at 50° for 7 hours. The mixture was thereafter evaporated to dryness on a rotary evaporator, the residue was dissolved in methanol and the solution was treated with hydrogen chloride in methanol (6N). After recrystallization from methanol there was obtained N-(2-aminoethyl)-3-hydroxy-5-chloropyridine-2-carboxamide hydrochloride, m.p. 220°-223°.

reactant | t-butyl [2-(3-benzyloxy-5-chloropyridine-2-carboxamido)ethyl]carbamate | 1.95 g | C(C1=CC=CC=C1)OC=1C(=NC=C(C1)Cl)C(=O)NCCNC(OC(C)(C)C)=O | C20H24ClN3O4
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-aminoethyl)-3-hydroxy-5-chloropyridine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=C(C=C1O)Cl | InChI=1S/C8H10ClN3O2.ClH/c9-5-3-6(13)7(12-4-5)8(14)11-2-1-10;/h3-4,13H,1-2,10H2,(H,11,14);1H
